US07678801B2
3-{8-(2,6-difluorophenyl)-2-[[3-(dimethylamino)propyl](methyl)amino]-7-oxo-7,8-dihydropyrido[2,3-d]pyrimidin-4-yl}-N-(4-fluorophenyl)-4-methylbenzamide
To a solution of 3-[8-(2,6-difluorophenyl)-2-(methylsulfinyl)-7-oxo-7,8-dihydropyrido[2,3-d]pyrimidin-4-yl]-N-(4-fluorophenyl)-4-methylbenzamide (15 mg, 0.027 mmol) in DCM (5 mL) was added N,N,N′-trimethyl-1,3-propanediamine (0.021 mL, 0.14 mmol). The resultant mixture was stirred at room temperature overnight. The mixture was concentrated under vacuo. Flash chromatography (90% CH2Cl2/7% MeOH/3% NH4OH) then provide the title compound (10 mg, 63%).

reactant | 3-[8-(2,6-difluorophenyl)-2-(methylsulfinyl)-7-oxo-7,8-dihydropyrido[2,3-d]pyrimidin-4-yl]-N-(4-fluorophenyl)-4-methylbenzamide | 0.027 mmol, 15 mg | FC1=C(C(=CC=C1)F)N1C(C=CC2=C1N=C(N=C2C=2C=C(C(=O)NC1=CC=C(C=C1)F)C=CC2C)S(=O)C)=O | C28H19F3N4O3S
reactant | N,N,N′-trimethyl-1,3-propanediamine | 0.14 mmol, 0.021 mL | CN(CCCNC)C | C6H16N2
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | 3-{8-(2,6-difluorophenyl)-2-[[3-(dimethylamino)propyl](methyl)amino]-7-oxo-7,8-dihydropyrido[2,3-d]pyrimidin-4-yl}-N-(4-fluorophenyl)-4-methylbenzamide | 10 mg, 63% | FC1=C(C(=CC=C1)F)N1C(C=CC2=C1N=C(N=C2C=2C=C(C(=O)NC1=CC=C(C=C1)F)C=CC2C)N(C)CCCN(C)C)=O | C33H31F3N6O2
